US04486428
5-Hydroxy-4-(5-tetrazolyl)-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran
Finely ground sodium azide (325 mg, 5 mmole) is added to a solution of 5-acetoxy-4-cyano-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran (1.855 g, 5 mmole) in 10 ml ethanol-free chloroform containing 271 mg (2 mmole) N-methylpiperidine hydrochloride and 5 drops of N-methylpiperidine. The mixture is heated at reflux for one hour, another 2 mmoles of N-methylpiperidine hydrochloride is added, refluxing is continued for one hour and the mixture is allowed to stand overnight at room temperature. The mixture is partitioned between chloroform and aqueous sodium carbonate solution, the aqueous phase is adjusted to pH 5 and extracted again with chloroform. The combined organic layers are washed with water, dried (MgSO4) and the solvent evaporated in vacuo to afford the title compound.

reactant | sodium azide | 5 mmole, 325 mg | [N-]=[N+]=[N-].[Na+]
reactant | 5-acetoxy-4-cyano-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran | 5 mmole, 1.855 g | C(C)(=O)OC1=CC(=CC2=C1C(CC(O2)(C)C)C#N)C(CCCCCC)(C)C | C23H33NO3
reactant | ethanol | 2 mmole, 10 ml, 271 mg | C(C)O | C2H6O
reactant | N-methylpiperidine hydrochloride | 2 mmoles | Cl.CN1CCCCC1
catalyst | N-methylpiperidine | 5 drops | CN1CCCCC1 | C6H13N
product | 5-Hydroxy-4-(5-tetrazolyl)-2,2-dimethyl-7-(1,1-dimethylheptyl)-3,4-dihydro-2H-benzopyran | OC1=CC(=CC2=C1C(CC(O2)(C)C)C2=NN=NN2)C(CCCCCC)(C)C | C21H32N4O2
